US08975254B2
5-[4-(2-Hydroxyethyl)piperazine-1-carbonyl]-2H-pyrazole-3-carboxylic acid{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in Example 1 starting from 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid and 1-(2-hydroxyethyl)piperazine. The crude product was purified by flash chromatography using CH2Cl2-MeOH as a gradient eluent (100:0-90:10). 1H NMR (400 MHz, DMSO-d6): 2.40-2.44 (6H, m), 2.95 (2H, t), about 3.5-3.7 (6H, m), about 3.82 (2H, m), 4.41 (1H, t), 6.33 (1H, d), 7.01 (1H, d), about 7.05 (1H, broad s), 7.59 (1H, distorted dd), 7.63 (1H, distorted d), 7.84 (1H, d), about 8.59 (1H, broad s), 13.9 (1H, broad s).

reactant | 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
reactant | 1-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | 5-[4-(2-Hydroxyethyl)piperazine-1-carbonyl]-2H-pyrazole-3-carboxylic acid{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1NN=C(C1)C(=O)N1CCN(CC1)CCO | C23H25Cl2N5O4
